US07179912B2
To a suspension of 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone (61 mg, 0.257 mmol) and K2CO3 (178 mg, 1.29 mmol) in acetone (3 mL) was added 3-cyanobenzoyl chloride (43 mg, 0.257 mmol). The reaction vessel was sealed and heated to 60° C. for 2 d. After cooling to room temperature, water (about 2 mL) was added, and the mixture was allowed to stir for about 10 min. The contents were transferred to a separatory funnel containing water (5 mL) and extracted with EtOAc (3×15 mL). The organic layer was dried (MgSO4) and concentrated. The concentrate was purified via Biotage chromatography with gradient elution from 100% hexanes to 30% EtOAc/hexanes to yield 6 mg (7%) of 3-(5-hydroxy-7-morpholin-4-yl-4-oxo-4H-chromen-2-yl)-benzonitrile. Rf=0.33 (50% EtOAc/hexanes).

reactant | 1-(2,6-dihydroxy-4-morpholin-4-yl-phenyl)-ethanone | 0.257 mmol, 61 mg | OC1=C(C(=CC(=C1)N1CCOCC1)O)C(C)=O | C12H15NO4
reactant | K2CO3 | 1.29 mmol, 178 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-cyanobenzoyl chloride | 0.257 mmol, 43 mg | C(#N)C=1C=C(C(=O)Cl)C=CC1 | C8H4ClNO
reactant | water | about 2 mL | O | H2O
reactant | water | 5 mL | O | H2O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | 3-(5-hydroxy-7-morpholin-4-yl-4-oxo-4H-chromen-2-yl)-benzonitrile | 6 mg, 7% | OC1=C2C(C=C(OC2=CC(=C1)N1CCOCC1)C=1C=C(C#N)C=CC1)=O | C20H16N2O4
